US07589232B2
5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-phenylpropanoyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
The titled compound was prepared following the procedure D using 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-phenylpropanoyl)amino]-2-hydroxybenzoic acid and N-methyl-D-glucamine as a white powder (50%). M− (ESI): 508; M+ (ESI): 509.9. HPLC, Rt: 5.17 min (Purity: 98.2%).

reactant | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-phenylpropanoyl)amino]-2-hydroxybenzoic acid | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(CCC2=CC=CC=C2)=O)C=C1 | C31H24ClNO4
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
product | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-phenylpropanoyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(CCC2=CC=CC=C2)=O)C=C1 | InChI=1S/C31H24ClNO4.C7H17NO5/c32-26-15-12-24(13-16-26)7-6-23-8-10-25(11-9-23)21-33(27-17-18-29(34)28(20-27)31(36)37)30(35)19-14-22-4-2-1-3-5-22;1-8-2-4(10)6(12)7(13)5(11)3-9/h1-5,8-13,15-18,20,34H,14,19,21H2,(H,36,37);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
